US04933336
1,3-Dihydro-5-(3,6-dihydro-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-methyl-2H-indol-2-one
1.0 g 5-(2-chloroacetyl)-1,3-dihydro-3-methyl-2H-indol-2-one, 0.37 g O-methyl thiocarbazate, and 20 ml acetonitrile were refluxed for 2 hrs. The precipitate was isolated by filtration and washed with hot acetonitrile to yield a yellowish powder, 450 mg.

reactant | 5-(2-chloroacetyl)-1,3-dihydro-3-methyl-2H-indol-2-one | 1.0 g | ClCC(=O)C=1C=C2C(C(NC2=CC1)=O)C | C11H10ClNO2
reactant | O-methyl thiocarbazate | 0.37 g | C(NN)(=S)OC | C2H6N2OS
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1,3-Dihydro-5-(3,6-dihydro-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3-methyl-2H-indol-2-one | O=C1SCC(=NN1)C=1C=C2C(C(NC2=CC1)=O)C | C12H11N3O2S
